US07220769B2
Preparation 11. 2-Ethoxy-4-cyanobenzoyl chloride
2-Ethoxy-4-cyanobenzoic acid (10 g, 52.3 mmol), prepared as in Preparation 10, and thionyl chloride (50 ml,) were refluxed in CH2Cl2 (80 ml) for 5 h. Solvent was removed under vacuum to leave 10.9 g of an off white solid (52 mmol, yield 99%) that was used without further purification.

reactant | 2-Ethoxy-4-cyanobenzoic acid | 52.3 mmol, 10 g | C(C)OC1=C(C(=O)O)C=CC(=C1)C#N | C10H9NO3
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
product | 2-Ethoxy-4-cyanobenzoyl chloride | 52 mmol, yield 99% | C(C)OC1=C(C(=O)Cl)C=CC(=C1)C#N | C10H8ClNO2
